US20010047105A1
A solution of 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(4-fluoro-phenyl)-butyl]-pyrrolidin-2-one (150 mg, 0.41 mmol) in DMF (5 mL) was added to NaH (60% by weight in oil, 16 mg, 0.41 mmol) in DMF (10 mL). After 1.5 h, 7-bromoheptanenitrile (78 mg, 0.41 mmol) in DMF (5 mL) was added and the reaction mixture was stirred at 90° C. for 2.5 h. Water (20 mL) was added and the aqueous solution was washed with EtOAc (4×15 mL). The combined organic solutions were washed with water (2×15 mL), dried (MgSO4), filtered, and concentrated. The residue was purified by medium pressure chromatography (1:1 hexanes:EtOAc) provided 7-{2-[3-(tert-butyl-dimethyl-silanyloxy)-4-(4-fluoro-phenyl)-butyl]-5-oxo-pyrrolidin-1-yl}-heptanenitrile (161 mg). 1H NMR (CDCl3) δ7.09 (m, 2H), 6.95 (m, 2H), 3.81 (m, 1H), 3.54 (m, 2H), 2.86 (m, 1H), 2.68 (m, 2H), 2.29 (m, 4H), 2.06 (m, 1H), 1.74-1.23 (m, 13H), 0.85 (s, 9H), 0.04 (m, 3H), 0.19 (m, 3H); MS 475.1 (M+1).

reactant | 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(4-fluoro-phenyl)-butyl]-pyrrolidin-2-one | 0.41 mmol, 150 mg | C(C)(C)(C)[Si](OC(CCC1CCC(N1)=O)CC1=CC=C(C=C1)F)(C)C | C20H32FNO2Si
reactant | NaH | 0.41 mmol, 16 mg | [H-].[Na+]
reactant | 7-bromoheptanenitrile | 0.41 mmol, 78 mg | BrCCCCCCC#N | C7H12BrN
reactant | Water | 20 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-{2-[3-(tert-butyl-dimethyl-silanyloxy)-4-(4-fluoro-phenyl)-butyl]-5-oxo-pyrrolidin-1-yl}-heptanenitrile | 161 mg | C(C)(C)(C)[Si](OC(CCC1N(C(CC1)=O)CCCCCCC#N)CC1=CC=C(C=C1)F)(C)C | C27H43FN2O2Si
